US07541473B2
5.1. Preparation of 2-(1-methyl-4-pentenyl)pyridine
A solution of 8.46 ml (0.074 mol) of 2-ethylpyridine in 35 ml of tetrahydrofuran was cooled to −20° C. and 47 ml of n-butyllithium (15 w.-% in hexane, 0.074 mol) were subsequently added while stirring. The mixture was allowed to come to room temperature, stirred for another one hour and subsequently cooled back down to −20° C. A solution of 7.52 ml (0.074 mol) of 4-bromo-1-butene in 10 ml of tetrahydrofuran was then added at such a rate that the temperature remained at −20° C. The mixture was allowed to warm to room temperature, stirred for a further 14 hours and hydrolyzed with 50 ml of water. The organic phase was separated off and the aqueous phase was extracted three times with 30 ml each time of diethyl ether. The organic phases were combined; dried over magnesium sulfate, the magnesium sulfate was filtered off and the solvent was distilled off. The residue obtained in this way was distilled at 98-100° C./14 torr. This gave 8.95 g (75%) of 2-(1-methyl-4-pentenyl)pyridine.

reactant | 2-ethylpyridine | 0.074 mol, 8.46 ml | C(C)C1=NC=CC=C1 | C7H9N
reactant | n-butyllithium | 0.074 mol, 47 ml | C(CCC)[Li]
reactant | 4-bromo-1-butene | 0.074 mol, 7.52 ml | BrCCC=C | C4H7Br
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1-methyl-4-pentenyl)pyridine | CC(CCC=C)C1=NC=CC=C1 | C11H15N
